US05380721
A solution of 10 g (45 mmol) of 1-bromo-2-methylnaphthalene in 75 mL of THF was refluxed with 1.2 g (50 mmol) of magnesium turnings for three hours. The reaction was cooled on ice and 4.8 mL (43 mmol) of benzaldehyde was added. The ice was removed, the reaction was stirred 45 minutes and quenched with 5 mL of 1N HCl followed by 50 mL of water. The reaction was extracted into ethyl acetate, dried over sodium sulfate and flash chromatographed through silica gel with 5-10% ethyl acetate in hexane to provide 8.4 g (75%) of 2-methyl-a-phenyl-1-naphthalenemethanol as a pale yellow gum.

reactant | 1-bromo-2-methylnaphthalene | 45 mmol, 10 g | BrC1=C(C=CC2=CC=CC=C12)C | C11H9Br
reactant | magnesium | 50 mmol, 1.2 g | [Mg] | Mg
reactant | benzaldehyde | 43 mmol, 4.8 mL | C(C1=CC=CC=C1)=O | C7H6O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 2-methyl-a-phenyl-1-naphthalenemethanol | 8.4 g, 75% | CC1=C(C2=CC=CC=C2C=C1)C(O)C1=CC=CC=C1 | C18H16O
